US07138425B2
a) 2-(5-Nitro-2-isopropoxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 44a), from 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole (200 mg, 0.6 mmol) and isopropanol (2 ml) the subtitle compound was obtained (204 mg, 84%). 1H NMR (DMSO) δ 8.85(d, 1H), 8.44(dd, 1H), 8.12(d, 1H), 7.90(d, 1H), 7.76(m, 3H), 7.54(m, 3H), 7.40(t, 1H), 4.35(m, 1H), 1.45(d, 6H).

reactant | 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole | 0.6 mmol, 200 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11FN2O3
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 2-(5-Nitro-2-isopropoxyphenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OC(C)C | C22H18N2O4
